US06248755B1
Step C: 1-Benzyl-4-(4-phenylbutylidene)piperidine
A 0.62M solution of potassium bis(trimethylsilyl)amide in THF (180 mL, 112 mmol) in toluene (250 mL) was added to a mixture of (4-phenylbut-1-yl)triphenylphosphonium bromide (from the Step B) (53 g) in toluene (250 mL) in an ice bath over 15 min with stirring under nitrogen. After stirring for a further 15 min, a solution of 1-benzyl-4-piperidone (16.9 g) in toluene (100 mL) was added over 30 min with stirring. The reaction mixture was allowed to warm to rt over 15 h. The reaction mixture was then poured into cold 1N HCl (400 mL) and the layers were separated. The organic layer was extracted with two more portions of 1N HCl. The combined cloudy HCl solution and an oil layer in between were washed with toluene (200 mL) before the aqueous layer was basified by the addition of potassium hyroxide (30 g). The aqueous layer was extracted with ether (3×150 mL) and the combined organic layers were washed with water and brine, dried over sodium sulfate and concentrated. The crude product was purified by FC (10˜15% ethyl acetate in hexanes having 4% (v/v) TEA) to give the title compound (16 g) as a colorless oil. Rf: 0.47 (20% ethyl acetate in hexanes having 4% (v/v) TEA). 1H NMR (500 MHz, CDCl3): δ7.26-7.38 (m, 7 H), 7.18-7.21 (m, 3 H), 5.18 (t, J=7.4 Hz, 1 H), 3.54 (s, 2 H), 2.61-2.64 (m, 2 H), 2.42-2.49 (m, 4 H), 2.22-2.27 (m, 4 H), 2.02-2.07 (m, 2 H), 1.65-1.71 (m, 2 H).

reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | THF | 112 mmol, 180 mL | C1CCOC1 | C4H8O
reactant | (4-phenylbut-1-yl)triphenylphosphonium bromide | [Br-].C1(=CC=CC=C1)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-benzyl-4-piperidone | 16.9 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | HCl | 1N, 400 mL | Cl | ClH
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Benzyl-4-(4-phenylbutylidene)piperidine | 16 g | C(C1=CC=CC=C1)N1CCC(CC1)=CCCCC1=CC=CC=C1 | C22H27N
